US05604180
Preparation of Methyl 3-[5-(2,4-dichlorophenoxy)-2-nitrophenyl]tetrahydro-5-methyl-2,4,6-trioxo-s-triazine-1(2H)-acetate
Methyl iodide (0.15 mL, 2.41 mmol) and potassium carbonate (0.19 g, 1.34 mmol) are added to a solution of methyl 3-[5-(2,4-dichlorophenoxy)-2-nitrophenyl]tetrahydro-2,4,6-trioxo-s-triazine-1(2H)-acetate (0.40 g, 0.83 mmol) in N,N-dimethylformamide. The reaction mixture is stirred overnight at room temperature and poured into a saturated ammonium chloride solution. The aqueous mixture is extracted with ethyl acetate. The organic extracts are combined, washed sequentially with water and brine, dried over anhydrous magnesium sulfate and concentrated in vacuo to obtain a yellow oil. Column chromatography of the oil using silica gel and an ethyl acetate/hexanes (1:3) solution gives the title product as a yellow foam which is identified by NMR spectral analysis.

reactant | Methyl iodide | 2.41 mmol, 0.15 mL | CI | CH3I
reactant | potassium carbonate | 1.34 mmol, 0.19 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 3-[5-(2,4-dichlorophenoxy)-2-nitrophenyl]tetrahydro-2,4,6-trioxo-s-triazine-1(2H)-acetate | 0.83 mmol, 0.40 g | ClC1=C(OC=2C=CC(=C(C2)N2C(N(C(NC2=O)=O)CC(=O)OC)=O)[N+](=O)[O-])C=CC(=C1)Cl | C18H12Cl2N4O8
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | Methyl 3-[5-(2,4-dichlorophenoxy)-2-nitrophenyl]tetrahydro-5-methyl-2,4,6-trioxo-s-triazine-1(2H)-acetate | ClC1=C(OC=2C=CC(=C(C2)N2C(N(C(N(C2=O)C)=O)CC(=O)OC)=O)[N+](=O)[O-])C=CC(=C1)Cl | C19H14Cl2N4O8
